US05726319
Step C: (R)-α-[(2-t-Butoxycarbonylamino-2-methyl-1-oxopropyl)amino]-1H-indole-3-propanoic acid, benzyl ester
Crude D-tryptophan benzyl ester (1.0 g, 3.40 mmol), 1-hydroxybenztriazole hydrate (0.63 g, 4.1 mmol) and t-butoxycarbonyl-α-methylalanine (0.84 g, 4.11 mmol) were stirred together at room temperature in chloroform (20 mL). 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (980 mg, 5.11 mmol) was added to this mixture in a single portion. The reaction mixture was stirred at room temperature for 4 hours and worked up by pouring into water (50 mL). The chloroform layer was separated and washed with 5% aqueous citric acid solution (25 mL) and 5% aqueous sodium bicarbonate solution (25 mL). The chloroform layer was dried over magnesium sulfate, filtered and evaporated under vacuum to afford a thick oily foam. Chromatography on silica gel using ethyl acetate/hexanes (2:3 v/v) afforded a yellow foam (0.822 g 50%).

reactant | D-tryptophan benzyl ester | 3.40 mmol, 1.0 g | C(C1=CC=CC=C1)OC([C@H](N)CC1=CNC2=CC=CC=C12)=O | C18H18N2O2
reactant | 1-hydroxybenztriazole hydrate | 4.1 mmol, 0.63 g | O.ON1N=NC2=C1C=CC=C2
reactant | t-butoxycarbonyl-α-methylalanine | 4.11 mmol, 0.84 g | C(C)(C)(C)OC(=O)NC(C)(C(=O)O)C | C9H17NO4
reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 5.11 mmol, 980 mg | Cl.CN(CCCN=C=NCC)C
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | 50 mL | O | H2O
product | (R)-α-[(2-t-Butoxycarbonylamino-2-methyl-1-oxopropyl)amino]-1H-indole-3-propanoic acid, benzyl ester | C(C)(C)(C)OC(=O)NC(C(=O)N[C@@H](C(=O)OCC1=CC=CC=C1)CC1=CNC2=CC=CC=C12)(C)C | C27H33N3O5
